US08202865B2
Step 3: methyl 4-(5-{4-(dimethylamino)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)-2-fluorobenzoate
Methyl 4-{5-[3-amino-4-(dimethylamino)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate was taken up in Pyridine (750 μL) and mesylchloride (40 μL; 0.46 mmol) was added and stirred at RT for 72 h. After the time, the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (DCM:MeOH from 100:0 to 90:10) to give the title compound as a yellow powder (150 mg; 88%, 2 steps). 1H NMR (DMSO-d6, 300 MHz) δ 9.07 (bs, 1H), 8.13-8.08 (m, 1H), 8.04-7.91 (m, 4H), 7.23 (d, J=8.7 Hz, 1H), 3.90 (s, 3H), 3.14 (s, 3H), 2.88 (s, 6H). LC/MS (Method B): 435.3 (M+H)+. HPLC (Method A) Rt. 4.33 min (purity: 94.4%).

reactant | Methyl 4-{5-[3-amino-4-(dimethylamino)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | NC=1C=C(C=CC1N(C)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C18H17FN4O3
reactant | mesylchloride | 0.46 mmol, 40 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | Pyridine | 750 μL | N1=CC=CC=C1 | C5H5N
product | methyl 4-(5-{4-(dimethylamino)-3-[(methylsulfonyl)amino]phenyl}-1,2,4-oxadiazol-3-yl)-2-fluorobenzoate | 150 mg, 88% | CN(C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F)NS(=O)(=O)C)C | C19H19FN4O5S
